US08404719B2
To ethyl 2-chloro-4-fluoro-5-{[(2-fluorophenyl)amino]sulfonyl}benzoate (1.45 g) was added ethanol (6.4 mL) followed by a solution of NaOH (0.398 g, 9.96 mmol) in water (6.4 mL). The reaction was stirred at ambient temperature for 1 hour. To the mixture was added 1 N HCl (22.8 mL), and the mixture was stirred for 30 minutes. The solids were collected by filtration, washed with water (2×4 mL), and dried in a vacuum oven at 45° C. for 2.5 days to give 2-chloro-4-fluoro-5-{[(2-fluorophenyl)amino]sulfonyl}benzoic acid: 1H NMR (400 MHz, DMSO-d6) δ ppm 13.89 (s, 1H), 10.67 (s, 1H), 8.09 (d, J=7.7, 1H), 7.88 (d, J=9.9, 1H), 7.32-7.11 (m, 4H); MS (ESI) m/z 346 (M−H)−.

reactant | ethyl 2-chloro-4-fluoro-5-{[(2-fluorophenyl)amino]sulfonyl}benzoate | 1.45 g | ClC1=C(C(=O)OCC)C=C(C(=C1)F)S(=O)(=O)NC1=C(C=CC=C1)F | C15H12ClF2NO4S
reactant | ethanol | 6.4 mL | C(C)O | C2H6O
reactant | NaOH | 9.96 mmol, 0.398 g | [OH-].[Na+]
reactant | HCl | 1 N, 22.8 mL | Cl | ClH
solvent | water | 6.4 mL | O | H2O
product | 2-chloro-4-fluoro-5-{[(2-fluorophenyl)amino]sulfonyl}benzoic acid | ClC1=C(C(=O)O)C=C(C(=C1)F)S(=O)(=O)NC1=C(C=CC=C1)F | C13H8ClF2NO4S
